US07176242B2
Cyclopentyl magnesium bromide (8 mL of 2M ethereal solution) was added to cuprous bromide/dimethylsulfide complex (0.33 g, 1.6 mmol) in 10 mL of dry THF cooled to −25° C. under nitrogen. After 20 min, a solution of tert-butyl (2R)-2-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]aziridine-1-carboxylate (1.95 g, 8 mmol) in 4 mL of dry THF was introduced. The mixture was allowed to warm to ambient temperature overnight. It was quenched with saturated aqueous NH4Cl and extracted with ethyl ether. The organic phase was washed with aqueous saturated NH4Cl, 1 N NaHCO3, and brine. It was dried over anhydrous Na2SO4 and concentrated to 2.38 g of a solid. This material was dissolved in 70 mL of methanol, 12 g of Dowex 50WX2-400 was added, and the mixture was refluxed for 2 h. The mixture was filtered, washing with methanol and dichloromethane. A clean receiver was attached, and the resin was washed with 100 mL of 1:1 concentrated NH4OH: ethanol. The filtrate was concentrated to 1.16 g of tan crystals. The crystals were dissolved in 30 mL of dry THF, and 1.5 g (6.9 mmol) of di-t-butyldicarbonate was introduced. The mixture was stirred under nitrogen overnight. It was concentrated, extracted with ether and the ether was washed with several portions of water and brine. Drying over Na2SO4 and concentration afforded 1.8 g (6.7 mmol, 84% from tert-butyl (2R)-2-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]aziridine-1-carboxylate) of tert-butyl (1S,2S)-1-[cyclopentylmethy]-2,3-dihydroxypropylcarbamate: 1H NMR (CDCl3) δ 4.5 (d, 1H, NH), 3.7 (m, 1H), 3.6–3.49 (m, 2H), 3.36 (m, 1H), 3.26 (t, 1H, OH), 2.76 (d, 1H, OH), 1.45 (s, 9H), 1.88–1.36 (m, 9H), 1.17–1.08 (m, 2H).

reactant | Cyclopentyl magnesium bromide | 2M, 8 mL | C1(CCCC1)[Mg]Br
reactant | tert-butyl (2R)-2-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]aziridine-1-carboxylate | 8 mmol, 1.95 g | CC1(OC[C@@H](O1)[C@@H]1N(C1)C(=O)OC(C)(C)C)C | C12H21NO4
reactant | di-t-butyldicarbonate | 6.9 mmol, 1.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | tert-butyl (1S,2S)-1-[cyclopentylmethy]-2,3-dihydroxypropylcarbamate | 6.7 mmol, 1.8 g, 84% | C1(CCCC1)C[C@@H]([C@@H](CO)O)NC(OC(C)(C)C)=O | C14H27NO4
